US06350735B1
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]tetrahydro-3-furanyl acetate
A solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate (1.96 g, 4.48 mmol) (Preparation 10) and triethylamine (1.8 g, 17.8 mmol) in acetonitrile (20 ml) was treated with phenethylamine (0.60 g, 4.96 mmol) and the mixture was stirred at room temperature under a nitrogen atmosphere for 2 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane (75 ml) and water (20 ml). The organic phase was separated and the solvent was removed under reduced pressure. The foam was purified by column chromatography on silica gel eluting with dichloromethane:ethyl acetate (4:1 by volume) to give a product which was then azeotroped with diethyl ether to afford the title compound as a foam (2.05 g).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-(6-chloro-2-cyano-9H-purin-9-yl)tetrahydro-3-furanyl acetate | 4.48 mmol, 1.96 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)C#N)COC(C)=O | C17H16ClN5O7
reactant | triethylamine | 17.8 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | phenethylamine | 4.96 mmol, 0.60 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]tetrahydro-3-furanyl acetate | 2.05 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCCC1=CC=CC=C1)C#N)COC(C)=O | C25H26N6O7
